US05864039
To a solution of 1-benzyl-3-hydroxy-4-hydroxymethylpiperidine (7.1 g) and hydrazine monohydrate (1.56 ml) in ethanol was added 10% palladium carbon (3 g), and the resulting mixture was stirred at refluxing temperature for 5 hr. 10% Palladium carbon was filtered off and the solvent was evaporated under reduced pressure to give 4.51 g of 3-hydroxy-4-hydroxymethylpiperidine.

reactant | 1-benzyl-3-hydroxy-4-hydroxymethylpiperidine | 7.1 g | C(C1=CC=CC=C1)N1CC(C(CC1)CO)O | C13H19NO2
reactant | hydrazine monohydrate | 1.56 ml | O.NN
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium carbon | 3 g | [C].[Pd]
product | 3-hydroxy-4-hydroxymethylpiperidine | 4.51 g | OC1CNCCC1CO | C6H13NO2
